.subckt ACS730 IP+ IP- VCC Viout VZCR DUT_GND
Rp IP+ IP- 1.2m
XSet_BW N002 front_end N002 opamp Aol=100K GBW=1MEG
B§OutputStage front_end DUT_GND V=if({polarity}==2,((V(IP+)-V(IP-))/1.2m*sensitivity)+2.5,((V(IP+)-V(IP-))/1.2m*sensitivity)+0.5)
B§Set_VZCR VZCR DUT_GND V=if((V(VCC)>=4.5)&(V(VCC)<=5.5), if({polarity}==2, 2.5, 0.5), 0)
B§VSat_High N001 DUT_GND V=V(VCC)-0.3
VSat_Low N003 DUT_GND 100mV
XBuffer N002 Viout N001 N003 Viout level2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
I1 DUT_GND VCC 17mA
.lib opamp.sub
.lib UniversalOpAmp2.lib
.backanno
.ends ACS730
.end
